US07291635B2
To a solution of the title C compound in Example 5, 5-(3-nitrobenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (30 mg, 0.11 mmol) in EtOH (5 mL) is added palladium on carbon (10 mg) and the mixture is stirred under 1 atm of hydrogen for 1 h. The catalyst is removed by filtration through a plug of Celite which is washed with MeCN/water (1:1), (20 mL). The solvents are evaporated to afford 5-(3-Aminobenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one as a brown solid: [M−1]−=240.

reactant | 5-(3-nitrobenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.11 mmol, 30 mg | [N+](=O)([O-])C=1C=C(CN2CC(NS2(=O)=O)=O)C=CC1 | C9H9N3O5S
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 5-(3-Aminobenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | NC=1C=C(CN2CC(NS2(=O)=O)=O)C=CC1 | C9H11N3O3S
